US07173038B1
A suspension of 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-4-(2-fluoro-4-methylanilino)-6-methoxyquinazoline (318 mg, 0.64 mmol) in methylene chloride (5 ml) containing TFA (2.5 ml) was stirred at ambient temperature for 2 hours. The volatiles were removed under vacuum and the residue was partitioned between methylene chloride and water. The aqueous layer was adjusted to pH 10–11. The organic layer was separated, washed with water, brine, dried (MgSO4) and the volatiles were removed by evaporation to give 4-(2-fluoro-4-methylanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline (220 mg, 87%).

reactant | 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-4-(2-fluoro-4-methylanilino)-6-methoxyquinazoline | 0.64 mmol, 318 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)C)F)OC | C27H33FN4O4
reactant | TFA | 2.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-fluoro-4-methylanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline | 220 mg, 87% | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2CCNCC2)C=CC(=C1)C | C22H25FN4O2
